US08835411B2
N-[7-(Fluoromethyl)-2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide
A mixture of N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide, Intermediate 28, (50 mg, 0.073 mmol) was treated with TBAF, 1M in THF (1.5 mL, 1.500 mmol) and 4 Å molecular sieves. The mixture was then stirred for 30 min at room temp and heated at 80° C. for 18 h. After cooling the reaction mixture was concentrated and purified by preparative HPLC to afford the title compound (14 mg, 0.025 mmol, 34.2% yield) as an off-white solid. 1H NMR (500 MHz, CDCl3) δ: 12.18 (1H, br. s.), 9.60 (1H, br. s.), 7.17-7.26 (2H, m), 6.94 (1H, t, J=8.85 Hz), 4.75 (1H, d, J=14.95 Hz), 4.56-4.65 (1H, m), 4.39-4.50 (1H, m), 4.28 (1H, d, J=2.75 Hz), 4.19 (1H, d, J=2.75 Hz), 3.42-3.57 (2H, m), 3.05 (3H, s), 3.03 (3H, s), 3.01 (3H, s), 2.27 (3H, s), 2.07-2.18 (3H, m), 1.80-1.88 (1H, m), 1.70-1.78 (2H, m), 1.42-1.52 (1H, m). LCMS (M+H)=532.4.

reactant | N-[2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-7-[[[(4-methylphenyl)sulfonyl]oxy]methyl]-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | FC1=C(C=C(C=C1)CNC(=O)C=1N=C2N(CC3(CCC2(CC3)N(C(C(=O)N(C)C)=O)C)COS(=O)(=O)C3=CC=C(C=C3)C)C(C1O)=O)C | C33H38FN5O8S
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 1.500 mmol, 1.5 mL | C1CCOC1 | C4H8O
product | N-[7-(Fluoromethyl)-2-[[[(4-fluoro-3-methylphenyl)methyl]amino]carbonyl]-6,7,8,9-tetrahydro-3-hydroxy-4-oxo-7,10-ethanopyrimido[1,2-a]azepin-10(4H)-yl]-N,N′,N′-trimethyl-ethanediamide | 0.025 mmol, 14 mg, 34.2% yield | FCC12CCC(C=3N(C1)C(C(=C(N3)C(=O)NCC3=CC(=C(C=C3)F)C)O)=O)(CC2)N(C(C(=O)N(C)C)=O)C | C26H31F2N5O5
